US07153855B2
To a solution of 3-{7-(cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}benzonitrile (50 mg, 0.1 mmol) in methanol was added 4N potassium hydroxide. After heating at 85° C. for 2 days, the reaction mixture was cooled to room temperature and acidified with 2N hydrochloric acid. The solution was extracted with ethyl acetate. The organic phases were combined and dried over magnesium sulfate. Filtration and concentration, followed by purification by flash chromatography (90:10 ethyl acetate:methanol) gave 3-{7-(cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}benzoic acid (10 mg, 19%) as a brown foam. 1H NMR (CDCl3): δ 8.11 (s, 1H), 8.00 (d, 1H), 7.96 (d, 1H), 7.80 (broad s, 1H), 7.64 (d, 1H), 7.46 (t, 1H), 7.37 (t, 1H), 6.98 (d, 1H), 6.57 (d, 1H), 6.21 (d, 1H), 6.11 (broad, 1H), 4.12 (m, 1H), 4.01 (m, 1H), 2.06 (m, 2H), 1.88 (m, 2H), 1.69–1.49 (m, 12H). MS m/z 483 (M+1); 481 (M−1).

reactant | 3-{7-(cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}benzonitrile | 0.1 mmol, 50 mg | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C=2C=C(C#N)C=CC2 | C28H29N7
reactant | potassium hydroxide | 4N | [OH-].[K+]
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | methanol | CO | CH4O
product | 3-{7-(cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}benzoic acid | 10 mg, 19% | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C=2C=C(C(=O)O)C=CC2 | C28H30N6O2
